US05349061
Step D: 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3 -hydroxypropyl)indol-6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23, 25-dimethoxy-13,19,21,27-tetramethyl-11, 28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos -18-ene-2,3,10,16-tetraone
To a solution of 17-Ethyl-1,14-dihydroxy -12-[2'-(4"-(1-(3-t-butyldimethylsilyloxypropyl)indol -6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetra -one (318 mg) in CH2Cl2 (5 mL) at rt was added a solution of p-toluene sulfonic acid (25 mg) in CH3OH (5 mL). The reaction mixture was stirred for 3 hours quenched with saturated NaHCO3, then extracted with CH2Cl2. The extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo. The product was purified by preparative TLC on silica gel (2:1,hexane/acetone) to give 190 mg of the title compound.

reactant | 17-Ethyl-1,14-dihydroxy -12-[2'-(4"-(1-(3-t-butyldimethylsilyloxypropyl)indol -6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetra -one | 318 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C1C=CN(C1=C2)CCCO[Si](C)(C)C(C)(C)C)OC)C)C)O)=O | C60H94N2O13Si
reactant | p-toluene sulfonic acid | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH3OH | 5 mL | CO | CH4O
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-(3 -hydroxypropyl)indol-6-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23, 25-dimethoxy-13,19,21,27-tetramethyl-11, 28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos -18-ene-2,3,10,16-tetraone | 190 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC=C1C=CN(C1=C2)CCCO)OC)C)C)O)=O | C54H80N2O13
